US05532367
A solution of 3.0 grams (0.015 mole) of 2-amino-3-cyano-5-bromopyrazine and 2.1 grams (0.021 mole) of trimethylsilylacetylene in 50 mL of acetonitrile is stirred, and 10.6 mL of triethylamine, 0.13 gram of copper iodide, and 0.29 gram of bis(triphenylphosphine)palladium(II) chloride are added in order. Upon completion of addition, the reaction mixture is stirred at ambient temperature for about 20 hours. The reaction mixture is warmed to 70° C., where it is stirred for about 7.5 hours. After this time, the reaction mixture is concentrated under reduced pressure to a residue. The residue is dissolved in ethyl acetate, and the solution is washed with 50 mL of aqueous, dilute hydrochloric acid. The organic layer is dried with magnesium sulfate and filtered. The filtrate is concentrated under reduced pressure to a residue. The residue is subjected to column chromatography on silica gel. Elution is accomplished using tetrahydrofuran/methylene chloride combinations. The product-containing fractions are combined and concentrated under reduced pressure, yielding 2-amino-3-cyano-5-(trimethylsilylethynyl)pyrazine.

reactant | 2-amino-3-cyano-5-bromopyrazine | 0.015 mole, 3.0 grams | NC1=NC=C(N=C1C#N)Br | C5H3BrN4
reactant | trimethylsilylacetylene | 0.021 mole, 2.1 grams | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 10.6 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.13 gram | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.29 gram | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-amino-3-cyano-5-(trimethylsilylethynyl)pyrazine | NC1=NC=C(N=C1C#N)C#C[Si](C)(C)C | C10H12N4Si
